US07056932B2
Sodium hydride (60% dispersion in mineral oil, 1.228 g=0.74 g NaH) was suspended in DMF (45 ml) under an argon atmosphere. The stirred suspension was cooled to 0° C. and 2-hydroxy-3-nitropyridine (4 g) was added portion wise over a period of 45 min. The mixture containing a compact yellow precipitate was then stirred at r.t. for 30 min and was cooled again to 0C. A solution of 2-chloro-2-ethoxyacetic acid ethyl ester (4.99 g) in DMF (5 ml) was then added and stirring at r.t. was continued for 2 h 30. The mixture was diluted with EtOAc and washed with water. The aqueous phase was extracted with EtOAc. The combined organics were washed with water and brine, dried (MgSO4), filtered and concentrated. The crude product was purified by chromatography (silica gel, gradient cyclohexane=>cyclohexane/EtOAc 3:2) to give (RS)-ethoxy-(3-nitro-2-oxo-2H-pyridin-1-yl)-acetic acid ethyl ester (4.32 g) as yellow solid. MS 270.1 ([M]+)

reactant | Sodium hydride | 1.228 g | [H-].[Na+]
reactant | 2-hydroxy-3-nitropyridine | 4 g | OC1=NC=CC=C1[N+](=O)[O-] | C5H4N2O3
reactant | 2-chloro-2-ethoxyacetic acid ethyl ester | 4.99 g | C(C)OC(C(OCC)Cl)=O | C6H11ClO3
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (RS)-ethoxy-(3-nitro-2-oxo-2H-pyridin-1-yl)-acetic acid ethyl ester | 4.32 g | C(C)OC(C(N1C(C(=CC=C1)[N+](=O)[O-])=O)OCC)=O | C11H14N2O6
